US07304156B2
In a 200 mL-volume glass flask equipped with a stirrer, a thermometer and a reflux condenser were placed 5.81 g (20 mmol.) of 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine, 3.59 g (26 mmol.) of potassium carbonate (available from Asahi Glass Works, Co., Ltd., Lot No. 1111632, particle size distribution: 75-250 μm: 14%, 75 μm pass: 86%), and 40 mL of butyl acetate. To the mixture was slowly added 4.19 g (22 mmol.) of p-toluenesulfonyl chloride under stirring, and the reaction was carried out at 40° C. for 4 hours. Subsequently, the reaction mixture was cooled to room temperature. To the cooled reaction mixture were added 2.84 g (26 mmol.) of N-methylmethanesulfonamide and 4.15 g (30 mmol.) of potassium carbonate (same as above). The mixture was heated to 110-125° C. for 2 hours under refluxing to carry out a reaction. After the reaction was complete, the mixture was cooled to room temperature. To the cooled mixture were added 25 mL of water and 20 mL of acetone, and the organic liquid portion was separated. The organic liquid portion was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The dry organic liquid portion was filtered and concentrated under reduced pressure. The residue was crystallized from heptane, to obtain 6.58 g of 4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonyl-2-(N-methyl-N-methanesulfonylamino)pyrimidine as a pale yellow crystalline product. The yield was 86% (based on the amount of 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine).

reactant | 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine | 20 mmol, 5.81 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OC)C(C)C)O | C15H15FN2O3
reactant | potassium carbonate | 26 mmol, 3.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-toluenesulfonyl chloride | 22 mmol, 4.19 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N-methylmethanesulfonamide | 26 mmol, 2.84 g | CNS(=O)(=O)C | C2H7NO2S
reactant | potassium carbonate | 30 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 25 mL | O | H2O
solvent | butyl acetate | 40 mL | C(C)(=O)OCCCC | C6H12O2
product | 4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonyl-2-(N-methyl-N-methanesulfonylamino)pyrimidine | 6.58 g, yield was 86% | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OC)C(C)C)N(S(=O)(=O)C)C | C17H20FN3O4S
